US06046213
In a 3 neck round bottom flask equipped for overhead mechanical stirring sodium hydride (2.03 g, 50.91 mmol, 60% oil dispersion) was rinsed free of oil with hexane (2 washes) and tetrahydrofuran (200 mL) was added followed by 4-chlorothiophenol (6.69 g, 46.28 mmol in 20 mL of tetrahydrofuran). Hydrogen gas freely evolved from the reaction. Upon cessation of hydrogen evolution, 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo-(3.2.1)-octane (9.5 g, 46.28 mmol in 70 mL of tetrahydrofuran) was added. The reaction was refluxed overnight, then cooled and filtered through Diatomaceous earth (with ether rinse). The filtrate was concentrated at reduced pressure and residue was taken up in ether. The organic phase was washed with water and brine, dried over calcium sulfate and concentrated to afford 8.08 g (65%) of 3-(4-chlorophenylsulfanyl)-8-methyl-8-azabicyclo-(3.2.1)-octane as atan oil which had: NMR δ 7.42-7.23 (m, 4 H), 3.22 (sym m, 1 H), 3.20-3.11 (m, 2 H), 2.24 (s, 3 H), 2.03-1.97 (m, 2 H), 1.82-1.66 (m, 4 H), 1.53 (ABq, Δv1-3 =14.5 Hz, J=6.5 Hz, 2 H).

reactant | sodium hydride | 50.91 mmol, 2.03 g | [H-].[Na+]
reactant | 4-chlorothiophenol | 46.28 mmol, 20 mL, 6.69 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | Hydrogen | [H][H] | H2
reactant | 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo-(3.2.1)-octane | 46.28 mmol, 70 mL, 9.5 g | FC(S(=O)(=O)OC1CC2CCC(C1)N2C)(F)F | C9H14F3NO3S
product | 3-(4-chlorophenylsulfanyl)-8-methyl-8-azabicyclo-(3.2.1)-octane | 8.08 g, 65% | ClC1=CC=C(C=C1)SC1CC2CCC(C1)N2C | C14H18ClNS
